US06723749B2
9(a) 4-Sulfamoyl-benzoic acid allyl ester
To a suspension of 4-Sulfamoyl-benzoic acid (2.0 g, 9.94 mmol) and sodium bicarbonate (0.84 g, 9.94 mmol) in DMF (20 mL) was added allyl iodide (0.91 mL, 9.94 mmol) and stirred at room temperature overnight under argon. The reaction was quenched with water, extracted with EtOAc and dried over Na2SO4. After removing the solvent under reduced pressure, the crude product was used in the next reaction without further purification. 1H NMR (400 MHz, CDCl3) δ8.20 (d, 2H), 8.00 (d, 2H), 6.06 (m, 1H), 5.40 dd, 2H), 5.02 (s, 2H), 4.96 (d, 2H). MH+ 243.

reactant | 4-Sulfamoyl-benzoic acid | 9.94 mmol, 2.0 g | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | sodium bicarbonate | 9.94 mmol, 0.84 g | C([O-])(O)=O.[Na+]
reactant | allyl iodide | 9.94 mmol, 0.91 mL | C(C=C)I | C3H5I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Sulfamoyl-benzoic acid allyl ester | C(C=C)OC(C1=CC=C(C=C1)S(N)(=O)=O)=O | C10H11NO4S
